US09238644B2
tert-Butyl 4-(4-aminobenzyl)piperazine-1-carboxylate (G49) can be prepared by the nucleophilic displacement of commercially available 1-(bromomethyl)-4-nitrobenzene (G47) with tert-butyl piperazine-1-carboxylate (G7) to give tert-butyl 4-(4-nitrobenzyl)piperazine-1-carboxylate (G48). Subsequent reduction with hydrogen in the presence of a catalyst, for example 10% palladium on charcoal, gives tert-butyl 4-(4-aminobenzyl)piperazine-1-carboxylate (G49).

reactant | tert-Butyl 4-(4-aminobenzyl)piperazine-1-carboxylate | NC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H25N3O2
reactant | 1-(bromomethyl)-4-nitrobenzene | BrCC1=CC=C(C=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | tert-butyl 4-(4-nitrobenzyl)piperazine-1-carboxylate | [N+](=O)([O-])C1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H23N3O4
